US06156754
I.1.a) p-Nitrophenyl 3-O-methyl-β-L-fucopyranoside
6 g (21 mmol) of p-nitrophenyl β-L-fucopyranoside in 300 ml of absol. methanol are treated with 7.84 g (31.5 mmol) of dibutyl tin oxide and heated under reflux for 2 h. The mixture is then concentrated, and the residue is dried and then taken up in 300 ml of DMF. After addition of 15.7 ml of methyl iodide, the batch is stirred at 70° C. for 40 h. The solvent is removed under reduced pressure and the residue is taken up in 300 ml of dichloromethane. The suspension is filtered, and the solution that remains is concentrated again and subjected to flash chromatography (dichloromethane/methanol 99:1). The concentration gives 3.82 g (61%) of the target product.

reactant | p-nitrophenyl β-L-fucopyranoside | 21 mmol, 6 g | O([C@@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO7
reactant | dibutyl tin oxide | 31.5 mmol, 7.84 g | C(CCC)[Sn](CCCC)=O
solvent | methanol | CO | CH4O
product | p-Nitrophenyl 3-O-methyl-β-L-fucopyranoside | 3.82 g, 61% | CO[C@H]1[C@@H]([C@@H](OC2=CC=C(C=C2)[N+](=O)[O-])O[C@H]([C@H]1O)C)O | C13H17NO7
